US04110377
20g of 1-undecene and 10g of (CH3)2NH are reacted in accordance with the method of example 3 with Zr (Me2N4) (1g) in 50ml of toluene. After 20 hours at 200° C., (N-methyl, N-2 methylundecylamine) is obtained, and is separated by chromatography on an Al2O3 column.

reactant | 1-undecene | C=CCCCCCCCCC | C11H22
reactant | (CH3)2NH | N(C)C | C2H7N
solvent | toluene | 50ml | C1(=CC=CC=C1)C | C7H8
product | N-2 methylundecylamine | CC(CN)CCCCCCCCC | C12H27N
